US08008303B2
Morpholine-4-carboxylic acid {4′-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-amide
A mixture of 2′-methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid (40 mg), 4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine (28 mg), triethylamine (0.033 ml) and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (67 mg) in dry DMF (3 ml) was stirred at 20 C for 18 h. The mixture was then partitioned between water and dichloromethane. The dried extracts were evaporated and the residue purified on silica gel. Elution with dichloromethane:ethanol:0.880 ammonia; 200:8:1 gave an off-white solid (32 mg).

reactant | 2′-methyl-5′-[(morpholine-4-carbonyl)-amino]-biphenyl-4-carboxylic acid | 40 mg | CC1=C(C=C(C=C1)NC(=O)N1CCOCC1)C1=CC=C(C=C1)C(=O)O | C19H20N2O4
reactant | 4-(1,1-Dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine | 28 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | triethylamine | 0.033 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 67 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Morpholine-4-carboxylic acid {4′-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-amide | 32 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)N1CCOCC1)=O | C30H34N4O5S
